US07265104B2
To a solution of 5-amino-2-methoxypyridine (18 g, 161 mmol) in methanol (80 mL) was added acetone (20 mL, 177 mmol). The reaction was heated at reflux for 24 hours and the volatiles were concentrated in vacuo to provide 21.3 g of isopropylidene-(6-methoxy-pyridin-3-yl)-amine. 1H NMR (CDCl3) δ 7.59 (d, 1H), 7.31 (m, 1H), 6.70 (d, 1H), 3.91 (s, 3H), 2.20 (s, 3H), 1.85 (s, 3H).

reactant | 5-amino-2-methoxypyridine | 161 mmol, 18 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | acetone | 177 mmol, 20 mL | CC(=O)C | C3H6O
solvent | methanol | 80 mL | CO | CH4O
product | isopropylidene-(6-methoxy-pyridin-3-yl)-amine | 21.3 g | C(C)(C)=NC=1C=NC(=CC1)OC | C9H12N2O
